US09353107B2
Step-iii: N-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) piperidin-4-amine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-((4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)amino)piperidine-1-carboxylate (60 mg, 0.10 mmol) was deprotected in methanol/ether HCl (3.0/0.3 ml). This afforded 40 mg (75.4% yield) of the titled. 1H NMR (CD3OD, 400 MHz): δ 9.01-9.00 (d, 1H), 8.71-8.70 (d, 1H), 8.39 (s, 1H), 8.05 (s, 1H), 7.95 (s, 1H), 7.90-7.87 (m, 2H), 7.37-7.34 (m, 3H), 7.14-7.12 (s, 1H), 7.04-7.01 (m, 2H), 5.46 (s, 2H), 3.95-3.85 (m, 1H), 3.54-3.51 (d, 2H), 3.81-3.72 (t, 2H), 3.30-3.26 (d, 2H), 2.00-1.90 (m, 2H). MS: m/z=466.9 (M+1), HPLC: 96.60% in method A.

reactant | tert-butyl 4-((4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)amino)piperidine-1-carboxylate | 0.10 mmol, 60 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)NC3CCN(CC3)C(=O)OC(C)(C)C)C=CC1 | C33H35FN6O2
solvent | methanol ether HCl | 0.3 ml | CO.CCOCC.Cl
product | N-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) piperidin-4-amine | 75.4% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)NC3CCNCC3)C=CC1 | C28H27FN6
